US04218545
α, α'-bis-(4-hydroxyphenyl)-p-diisopropylbenzene.
The polycarbonates may be branched by the incorporation of small quantities of polyhydroxy compounds, e.g. from 0.05 to 2.0 mol % thereof, (based on the quantity of bis-phenols used). Polycarbonates of this kind have been described, for example, in German Offenlegungsschriften No. 1,570,533, No. 2,116,974 and No. 2,113,347, in British patent specifications No. 885,442 and No. 1,079,821 and in U.S. Pat. No. 3,544,514. Suitable polyhydroxy compounds include, for example, phloroglucinol, 4,6-dimethyl-2,4,6-tri-(4-hydroxyphenyl)-heptane, 1,3,5-tri-(4-hydroxyphenyl)-benzene, 1,1,1-tri-(4-hydroxyphenyl)-ethane, tri-(4-hydroxphenyl)phenylmethane, 2,2-bis-[4,4-(4,4'-di-hydroxydiphenyl)-cyclohexy]-propane, 2,4-bis-)4-hydroxyphenyl-4-isopropyl)-phenol, 2,6-bis-(2'-hydroxy-5'-methyl-benzyl)-4-methyl-phenol, 2,4-dihydroxybenzoic acid, 2-(4-hydroxyphenyl)-2-(2,4-dihydroxyphenyl)-propane and 1,4-bis-(4', 4"-dihydroxy-triphenyl-methyl)-benzene.

reactant | phloroglucinol | C1(O)=CC(O)=CC(O)=C1 | C6H6O3
reactant | 4,6-dimethyl-2,4,6-tri-(4-hydroxyphenyl)-heptane | CC(CC(C)C1=CC=C(C=C1)O)(CC(C)(C1=CC=C(C=C1)O)C)C1=CC=C(C=C1)O | C27H32O3
reactant | 1,3,5-tri-(4-hydroxyphenyl)-benzene | OC1=CC=C(C=C1)C1=CC(=CC(=C1)C1=CC=C(C=C1)O)C1=CC=C(C=C1)O | C24H18O3
reactant | 1,1,1-tri-(4-hydroxyphenyl)-ethane | OC1=CC=C(C=C1)C(C)(C1=CC=C(C=C1)O)C1=CC=C(C=C1)O | C20H18O3
reactant | phenol | C1(=CC=CC=C1)O | C6H6O
reactant | 2,6-bis-(2'-hydroxy-5'-methyl-benzyl)-4-methyl-phenol | OC1=C(CC2=C(C(=CC(=C2)C)CC2=C(C=CC(=C2)C)O)O)C=C(C=C1)C | C23H24O3
reactant | 2,4-dihydroxybenzoic acid | OC1=C(C(=O)O)C=CC(=C1)O | C7H6O4
reactant | 2-(4-hydroxyphenyl)-2-(2,4-dihydroxyphenyl)-propane | OC1=CC=C(C=C1)C(C)(C)C1=C(C=C(C=C1)O)O | C15H16O3
product | α, α'-bis-(4-hydroxyphenyl)-p-diisopropylbenzene | OC1=CC=C(C=C1)C(C)(C)C1=CC=C(C=C1)C(C)(C)C1=CC=C(C=C1)O | C24H26O2
